US07018685B2
After the addition of approx. 0.5 g of 4-toluenesulfonic acid and a few drops of concentrated sulfuric acid, a solution of 14 mmol of 2-butoxy-1,8-difluoro-7-(1-hydroxypropyl) fluorene in 50 ml of toluene is heated on a water separator for 3 h. After cooling, the mixture is extracted using 5 percent sodium hydrogencarbonate solution and saturated sodium chloride solution and dried over sodium sulfate. Then 0.5 g of palladium catalyst (10 percent on activated carbon) are subsequently added and the mixture is hydrogenated at room temperature. The reaction mixture is filtered and the solvent is removed under reduced pressure. The crude product is purified by chromatography on silica gel and recrystallization from heptane. 2-Butoxy-1,8-difluoro-7-n-propylfluorene is obtained.

reactant | 4-toluenesulfonic acid | approx. 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-butoxy-1,8-difluoro-7-(1-hydroxypropyl) fluorene | 14 mmol | C(CCC)OC1=C(C=2CC3=C(C(=CC=C3C2C=C1)C(CC)O)F)F | C20H22F2O2
reactant | water | O | H2O
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Butoxy-1,8-difluoro-7-n-propylfluorene | C(CCC)OC1=C(C=2CC3=C(C(=CC=C3C2C=C1)CCC)F)F | C20H22F2O
